US05696117
4-(3,5-Dichlorobenzyl)-3,4-dihydro-2-(2-hydroxyethyl)-3-oxo-2H-1,4-benzoxazine
Prepared from 2-(2-tert-butyldimethylsiloxyethyl)-3,4-dihydro-3-oxo-2H-1,4-benzoxazine by Methods F and G, alkylating with 3,5-dichlorobenzyl chloride, in 89% overall yield. A sample was crystallized from CH2Cl2 /hexane/ether to afford a white solid, mp 104°-106° C.; IR (KBr) 3525, 1680, 1570, 1505, 1398, 1063, 760 cm-1 ; 1H NMR (CDCl3) δ1.92 (brs, 1H), 2.17-2.37 (m, 2H), 3.93 (t, J=5.7 Hz, 2H), 4.87 (q, J=5.4 Hz, 1H), 5.13 (ABq, JAB =16.3 Hz, 2H), 6.78 (d, J=7.3 Hz, 1H), 6.93-7.05 (m, 2H), 7.12 (br d, J=1.7 Hz, 2H), 7.26-7.28 (m, 2H); Anal. Calc'd for C17H15Cl2NO3 : C, 57.97; H, 4.29; N, 3.98. Found: C, 57.96; H, 4.17; N, 3.87.

reactant | 2-(2-tert-butyldimethylsiloxyethyl)-3,4-dihydro-3-oxo-2H-1,4-benzoxazine | O([Si](C)(C)C(C)(C)C)CCC1OC2=C(NC1=O)C=CC=C2 | C16H25NO3Si
reactant | 3,5-dichlorobenzyl chloride | ClC=1C=C(CCl)C=C(C1)Cl | C7H5Cl3
reactant | KBr | [K+].[Br-]
product | 4-(3,5-Dichlorobenzyl)-3,4-dihydro-2-(2-hydroxyethyl)-3-oxo-2H-1,4-benzoxazine | ClC=1C=C(CN2C(C(OC3=C2C=CC=C3)CCO)=O)C=C(C1)Cl | C17H15Cl2NO3
